US08022208B2
N-(5-chloropyridin-2-yl)-3-hydroxy-2-({4-[2-oxo-1-(2-piperazin-1-ylethyl)-1,2-dihydropyridin-3-yl]benzoyl}amino)benzamide (128 mg) was dissolved in pyridine (5 mL), and acetic anhydride (21 μL) was added, followed by stirring at room temperature for 1 hour. The reaction mixture was concentrated under reduced pressure, then azeotroped twice with toluene. Water was added to the residue, followed by extraction with chloroform and drying over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by NH-silica gel column chromatography (methanol/chloroform=0% to 5%). The resulting compound was dissolved in ethyl acetate and 4 N hydrochloric acid/ethyl acetate was added. The precipitate formed was collected by filtration and dried under reduced pressure to obtain 2-[(4-{1-[2-(4-acetylpiperazin-1-yl)ethyl]-2-oxo-1,2-dihydropyridin-3-yl}benzoyl)amino]-N-(5-chloropyridin-2-yl)-3-hydroxybenzamide hydrochloride (109 mg) as a yellow white solid.

reactant | N-(5-chloropyridin-2-yl)-3-hydroxy-2-({4-[2-oxo-1-(2-piperazin-1-ylethyl)-1,2-dihydropyridin-3-yl]benzoyl}amino)benzamide | 128 mg | ClC=1C=CC(=NC1)NC(C1=C(C(=CC=C1)O)NC(C1=CC=C(C=C1)C=1C(N(C=CC1)CCN1CCNCC1)=O)=O)=O | C30H29ClN6O4
reactant | acetic anhydride | 21 μL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 2-[(4-{1-[2-(4-acetylpiperazin-1-yl)ethyl]-2-oxo-1,2-dihydropyridin-3-yl}benzoyl)amino]-N-(5-chloropyridin-2-yl)-3-hydroxybenzamide hydrochloride | 109 mg | Cl.C(C)(=O)N1CCN(CC1)CCN1C(C(=CC=C1)C1=CC=C(C(=O)NC2=C(C(=O)NC3=NC=C(C=C3)Cl)C=CC=C2O)C=C1)=O | InChI=1S/C32H31ClN6O5.ClH/c1-21(40)38-17-14-37(15-18-38)16-19-39-13-3-5-25(32(39)44)22-7-9-23(10-8-22)30(42)36-29-26(4-2-6-27(29)41)31(43)35-28-12-11-24(33)20-34-28;/h2-13,20,41H,14-19H2,1H3,(H,36,42)(H,34,35,43);1H
